US06313299B1
1-Cyclopropyl -5-amino-6,8-difluoro-7-[8-(methoxyimino)-2-methyl-2,6-diazaspiro[3,4]oct-6-yl]-4-oxo-1,4-dihydro-3-quinolinecarboxylic acid
1-Cyclopropyl-5-amino-6,8-difluoro-7-[8-(methoxyimino)-2,6-diazaspiro[3,4]oct-6-yl]-4-oxo-1,4-dihydro-3-quinolinecarboxylic acid was added to 10 ml of ethanol, and thereto 0.2 ml of acetic acid was dropped and 44 mg of p-formaldehyde was added. It was stirred at room temperature for 30 minutes and thereto 91 mg of sodium cyanoborohydride was added. It was stirred at room temperature for 2 hours. The resulting precipitate was filtered to give 280 mg of the titled compound(yield 90.4%).

reactant | 1-Cyclopropyl-5-amino-6,8-difluoro-7-[8-(methoxyimino)-2,6-diazaspiro[3,4]oct-6-yl]-4-oxo-1,4-dihydro-3-quinolinecarboxylic acid | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)N1CC2(CNC2)C(C1)=NOC)F)N)=O)C(=O)O | C20H21F2N5O4
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | sodium cyanoborohydride | 91 mg | C(#N)[BH3-].[Na+]
solvent | acetic acid | 0.2 ml | C(C)(=O)O | C2H4O2
product | 1-Cyclopropyl -5-amino-6,8-difluoro-7-[8-(methoxyimino)-2-methyl-2,6-diazaspiro[3,4]oct-6-yl]-4-oxo-1,4-dihydro-3-quinolinecarboxylic acid | 280 mg, yield 90.4% | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)N1CC2(CN(C2)C)C(C1)=NOC)F)N)=O)C(=O)O | C21H23F2N5O4
